US07301022B2
N-(4-(6-(2-(((1-isobutylpiperidin-2-yl)methyl)(methyl)amino)-6-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide.
A mixture of 4-(6-(2-(((1-isobutylpiperidin-2-yl)methyl)(methyl)amino)-6-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yloxy)benzo[d]thiazol-2-amine, Example 24(d), (0.14 g, 0.24 mmol) and acetic anhydride (5 mL, Aldrich) in pyridine (20 mL) was stirred at 25° C. for 24 h. The reaction mixture was partitioned between aqueous solution of NaHCO3 and EtOAc. The organic phase was separated, washed with brine, dried over Na2SO4, filtered and evaporated under reduced pressure. Purification of the residue by silica gel column chromotography (gradient: 50-100% EtOAc/hexane) afforded the title compound as a yellow solid. MS (ESI, pos. ion.) m/z: 614 (M+1). Mp: 123.2-125.4° C.

reactant | 4-(6-(2-(((1-isobutylpiperidin-2-yl)methyl)(methyl)amino)-6-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yloxy)benzo[d]thiazol-2-amine | C(C(C)C)N1C(CCCC1)CN(C1=NC(=CC=C1C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)N)C(F)(F)F)C | C28H32F3N7OS
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-(6-(2-(((1-isobutylpiperidin-2-yl)methyl)(methyl)amino)-6-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide | C(C(C)C)N1C(CCCC1)CN(C1=NC(=CC=C1C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O)C(F)(F)F)C | C30H34F3N7O2S
